simulator lang=spectre

global 0

include "/home/ff/eecs251b/sky130/sky130_cds/sky130_release_0.0.1/models/sky130.lib.spice" section=tt


simulator lang =spice

*.include "/home/ff/eecs251b/sky130/sky130_cds/sky130_release_0.0.1/models/sky130.lib.spice" section=tt

.param VGS = 2.28456

V1 vdd 0 DC 1.8
V2 vg 0 DC VGS 
V3 vs 0 DC 1.5

M1 vdd vg vs 0 sky130_fd_pr__nfet_01v8 l=0.15u nf=1 w=95u

.op 

simulator lang=spectre
save *:oppoint sigtype=dev
saveopts options save=all
